US08168635B2
6-(3,4-dimethoxy-benzoyl)-cyclohex-3-enecarboxylic acid
A solution of 3,4-dimethoxyphenylmagnesium bromide (59 mmol, 0.29 M) in THF was added dropwise to an ice-cooled solution of cis-1,2,3,6-tetrahydrophthalic anhydride in THF (120 mL) over a 1 h period. After the addition was complete, the resulting mixture was stirred for another 30 min at 0° C. The reaction mixture was allowed to warn to room temperature overnight. The reaction was quenched with sat. NH4Cl(aq) and then the pH was adjusted to 2 with concentrated HCl(aq) and extracted with diethyl ether. The combined organic extracts were washed with water and subsequently extracted with 1 M NaOH(aq). The combined aqueous extracts were neutralized with conc. HCl(aq) and extracted with EtOAc. The combined organic extracts were dried over MgSO4, filtered through paper, and concentrated under reduced pressure to give an oil. The oil was dissolved in CH2Cl2 and filtered through silica to remove any dicarboxylic acid formed during the reaction work up. The product was recrystallized in diethyl ether to afford a white solid (1.62 g, 5.58 mmol, 10%).

reactant | 3,4-dimethoxyphenylmagnesium bromide | 59 mmol, 0.29 M | COC=1C=C(C=CC1OC)[Mg]Br
reactant | cis-1,2,3,6-tetrahydrophthalic anhydride | C1([C@H]2[C@@H](C(=O)O1)CC=CC2)=O | C8H8O3
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-(3,4-dimethoxy-benzoyl)-cyclohex-3-enecarboxylic acid | 5.58 mmol, 1.62 g, 10% | COC=1C=C(C(=O)C2CC=CCC2C(=O)O)C=CC1OC | C16H18O5
